US08604029B2
Methyl-(4-nitro-phenyl)-amine (3.0 g, 19.7 mmol) and acrylic acid (4.06 mL, 59.2 mmol) were added at 0° C. to a solution of concentrated sulfuric acid (2.15 mL, 39.5 mmol) in water-(28 mL). The reaction mixture was heated at 80° C. for 30 min, cooled to room temperature and diluted with water. The precipitated solid was filtered and dried to give a crude product which was purified by washing with diethyl ether and pentane, affording 3-[methyl-(4-nitro-phenyl)-amino]-propionic acid (4.0 g, 91%) as a yellow solid.

reactant | Methyl-(4-nitro-phenyl)-amine | 19.7 mmol, 3.0 g | CNC1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | acrylic acid | 59.2 mmol, 4.06 mL | C(C=C)(=O)O | C3H4O2
reactant | sulfuric acid | 39.5 mmol, 2.15 mL | S(O)(O)(=O)=O | H2O4S
solvent | water- | 28 mL | O | H2O
product | 3-[methyl-(4-nitro-phenyl)-amino]-propionic acid | 4.0 g, 91% | CN(CCC(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C10H12N2O4
